US04198347
Diethyl malonate (34.8 g.) was added to a solution of sodium (5.0 g.) in ethanol (500 ml.) and the mixture stirred for a few minutes. 3,3-Dimethyl-1-bromoallene (32.0 g.) was then added dropwise at the ambient temperature after which the mixture was refluxed for 3 hours. The ethanolic solution obtained was poured into an excess of water and the mixture extracted with chloroform (3×200 ml.). The extracts were combined, dried with anhydrous sodium sulphate and evaporated and the residual oil distilled under reduced pressure to yield ethyl 3,3-dimethyl-2-ethoxycarbonylpent-4-ynoate, as an oil b.p. 56°-60°/0.1 mm.Hg.

reactant | Diethyl malonate | 34.8 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium | 5.0 g | [Na] | Na
reactant | 3,3-Dimethyl-1-bromoallene | 32.0 g | CC(=C=CBr)C | C5H7Br
reactant | water | O | H2O
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | ethyl 3,3-dimethyl-2-ethoxycarbonylpent-4-ynoate | CC(C(C(=O)OCC)C(=O)OCC)(C#C)C | C12H18O4
